US06262068B1
A. 3,4-Dihydro-6-methoxy-2(1H)-isoquinolineacetic acid ethyl ester
To a solution of 3,4-dihydro-6-methoxy-l(2H)-isoquinolinone (852 mg, 4.81 mmol, prepared according to J. Chem. Soc., 1969, p 183) in THF (45 mL) at −78° C. was added 0.5M potassium hexamethyidisilazide (10.6 mL, 5.28 mmol) dropwise and the reaction mixture stirred at −78° C. for 5 minutes. The reaction mixture was warmed to 0° C. in a ice/water bath and ethyl bromoacetate (1.20 g, 7.21 mmol) was added dropwise and the mixture stirred at that temperature for 1 hour, and then at room temperature for 2 hours. The reaction mixture was quenched by addition of sat. NaHCO3, diluted with ethyl acetate, and the organic layer was washed with saturated NaHCO3 and then brine. It was dried (MgSO4) and concentrated in vacuo to afford the title compound (1.1 g, 86%) as a yellow solid. Molecular weight (MS): 263.

reactant | 3,4-dihydro-6-methoxy-l(2H)-isoquinolinone | 4.81 mmol, 852 mg | COC=1C=C2CCNC(C2=CC1)=O | C10H11NO2
reactant | potassium hexamethyidisilazide | 5.28 mmol, 0.5M, 10.6 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | ethyl bromoacetate | 7.21 mmol, 1.20 g | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 3,4-Dihydro-6-methoxy-2(1H)-isoquinolineacetic acid ethyl ester | 1.1 g, 86% | C(C)OC(CN1CC2=CC=C(C=C2CC1)OC)=O | C14H19NO3
